US06730791B2
According to the described procedure of Carr et al., U.S. Pat. No. 4,254,129, to a solution of 0.6 g of ethyl 4-[4[4-(hydroxydiphenylmethyl)-1-piperidinyl]-hydroxybutyl]-α,α-dimethylbenzeneacetate in 20 ml of absolute ethanol is added 10 ml of a 50% solution of sodium hydroxide. The mixture is refluxed for 3½ hours and concentrated to a solid after which a minimum amount of methanol to dissolve the residue is added. 10% Aqueous HCl is added until pH 7 is reached, the methanol removed by evaporation and water (25 ml) is added. The resulting precipitate is recrystallized from methanolbutanone to give 4-[4[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid, M.P. 195°-197° C.

reactant | ethyl 4-[4[4-(hydroxydiphenylmethyl)-1-piperidinyl]-hydroxybutyl]-α,α-dimethylbenzeneacetate | 0.6 g | OC(C1CCN(CC1)C(CCCC1=CC=C(C=C1)C(C(=O)OCC)(C)C)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H43NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[4[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid | OC(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H39NO4
